US06919404B2
2-Methyl-acrylic acid 2-[4-(2-methoxycarbonyl-vinyl)-phenoxy]-ethyl ester, Addition Monomer 5
To a ice cooled solution of methyl 4-hydroxy cinnamate (5.0 g, 28 mmol) in anhydrous tetrahydrofuran (50 ml), triphenylphosphine (7.73 g, 30 mmol) and diethyl azodicarboxylate (5.13 g, 30 mmol) was slowly added 2-hydroxy methacrylate (4.02 g, 31 mmol) in 10 ml tetrahydrofuran. The reaction was stirred at room temperature, under nitrogen, for 18 h. Water (100 ml) was added and the solution was extracted into ethyl acetate (3×100 ml). The combined ethyl acetate extracts were washed with 5% KOH (3×50 ml), water (100 ml) and brine (100 mL). After drying over magnesium sulfate and concentrating, the crude material was purified by first using silica gel chromatography, eluting with 20% ethyl acetate in hexane, and then recrystallizing from 50 ml 20% ethyl acetate in hexane, giving 4.4 g of white crystals, >99% pure by HPLC. H1 NMR (CDCl3): 7.66 (d, 1H, J=16 Hz), 7.48 (d, 2H, J=8.7 Hz), 6.92 (d, 2H, J=8.8 Hz), 6.32 (d, 1H, J=16 Hz), 6.14 (m, 1H), 5.60 (m, 1H), 4.51 (m, 2H), 4.25 (m, 2H), 3.80 (s, 3H), 1.95 (m, 3H).

reactant | methyl 4-hydroxy cinnamate | 28 mmol, 5.0 g | COC(=O)/C=C/C1=CC=C(C=C1)O | C10H10O3
reactant | triphenylphosphine | 30 mmol, 7.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 30 mmol, 5.13 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | Water | 100 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Methyl-acrylic acid 2-[4-(2-methoxycarbonyl-vinyl)-phenoxy]-ethyl ester | 4.4 g | COC(=O)C=CC1=CC=C(OCCOC(C(=C)C)=O)C=C1 | C16H18O5
